*
*|DSPF 1.5
*
*|DATE "Tue Jan 16 05:39:39 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "XOR2X2"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  XOR2X2 A B Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 4.25591e-16
*|P (A X 0 2.3120 1.8690)
*|I (MX25/M0#g MX25/M0 g X 0 2.1950 0.8025)
*|I (MX32/M0#g MX32/M0 g X 0 2.1950 3.2375)
*|S (A#7 2.1950 2.0950)
*|S (A#8 2.3000 2.0950)
C1 MX32/M0#g VSS 4.87118e-17
C2 MX25/M0#g VSS 3.75769e-17
C3 A#7 VSS 9.49321e-17
C4 A VSS 2.4437e-16
Rg1 MX32/M0#g A#7 348.282410 $W=0.15
Rg2 A#7 MX25/M0#g 396.482422 $W=0.15
Rf3 A#8 A#7 22.905882 $W=0.17
Re4 A A#8 152.108658 $W=0.26
*
*|NET B 1.06977e-15
*|P (B X 0 0.4720 2.6490)
*|I (MX31/M0#g MX31/M0 g X 0 1.3350 0.8025)
*|I (MX29/M0#g MX29/M0 g X 0 0.4750 0.8025)
*|I (MX27/M0#g MX27/M0 g X 0 0.4750 3.2375)
*|I (MM1#g MM1 g X 0 1.7650 3.2375)
*|S (B#13 0.4750 2.6000)
*|S (B#14 0.4750 1.3000)
*|S (B#15 1.3350 1.3000)
*|S (B#16 1.7650 2.6000)
*|S (B#20 0.4750 2.6000)
*|S (B#21 0.4600 2.6000)
C5 MM1#g VSS 4.7196e-17
C6 MX27/M0#g VSS 4.72587e-17
C7 MX29/M0#g VSS 4.29896e-17
C8 MX31/M0#g VSS 3.84645e-17
C9 B#21 VSS 1.3278e-16
C10 B#14 VSS 1.17905e-16
C11 B#15 VSS 1.4576e-16
C12 B#16 VSS 1.58103e-16
C13 B VSS 3.39311e-16
Rg5 MX27/M0#g B#13 186.009079 $W=0.15
Rg6 B#13 B#14 380.051514 $W=0.15
Rg7 B#14 MX29/M0#g 141.022415 $W=0.15
Rg8 MX31/M0#g B#15 141.022415 $W=0.15
Rg9 MM1#g B#16 186.009079 $W=0.15
Rf10 B#15 B#14 94.752945 $W=0.17
Rf11 B#16 B#20 112.129410 $W=0.17
Rf12 B#20 B#21 1.129412 $W=0.17
Rf13 B#13 B#20 15.000000 $W=0.0289
Re14 B#21 B 152.023560 $W=0.26
*
*|NET Y 1.09341e-15
*|P (Y X 0 3.2320 2.6190)
*|I (MX28/M0#d MX28/M0 d X 0 2.7605 0.9700)
*|I (MX28/M1#s MX28/M1 s X 0 3.0395 0.9700)
*|I (MX23/M0#d MX23/M0 d X 0 2.7605 2.9850)
*|I (MX23/M1#s MX23/M1 s X 0 3.0395 2.9850)
*|S (Y#1 2.9000 3.3450)
*|S (Y#4 2.9000 0.7550)
C14 MX23/M0#d VSS 1.8212e-16
C15 MX28/M0#d VSS 6.52141e-19
C16 Y#4 VSS 4.61948e-16
C17 Y#1 VSS 1.9892e-16
C18 Y VSS 2.49767e-16
Rf15 Y#1 MX23/M0#d 32.105885 $W=0.17
Rf16 MX28/M0#d Y#4 23.688236 $W=0.17
Re17 Y#1 Y 152.430038 $W=0.26
Re18 Y Y#4 152.977158 $W=0.26
Rmw19 MX28/M1#s MX28/M0#d 0.001000 $W=1000000
Rmw20 MX23/M1#s MX23/M0#d 0.001000 $W=1000000
*
*|NET 1 1.81992e-15
*|I (MX31/M0#d MX31/M0 d X 0 1.4105 0.8025)
*|I (MX28/M0#g MX28/M0 g X 0 2.6850 0.9700)
*|I (MX28/M1#g MX28/M1 g X 0 3.1150 0.9700)
*|I (MX24/M0#d MX24/M0 d X 0 1.6895 0.8025)
*|I (MX26/M0#d MX26/M0 d X 0 1.4105 3.2375)
*|I (MX23/M0#g MX23/M0 g X 0 2.6850 2.9850)
*|I (MX23/M1#g MX23/M1 g X 0 3.1150 2.9850)
*|I (MM1#s MM1 s X 0 1.6895 3.2375)
*|S (1 3.1150 2.9850)
*|S (1#13 3.1150 1.6300)
*|S (1#14 2.9000 1.6300)
*|S (1#15 2.6550 1.6300)
*|S (1#16 1.5500 3.4050)
*|S (1#19 1.5500 0.6200)
*|S (1#21 2.8350 1.6300)
C19 MX23/M0#g VSS 5.48887e-17
C20 MX26/M0#d VSS 1.25697e-16
C21 MX28/M1#g VSS 4.79451e-17
C22 MX28/M0#g VSS 4.62943e-17
C23 MX31/M0#d VSS 6.75875e-17
C24 1#19 VSS 3.23652e-16
C25 1#16 VSS 3.4727e-16
C26 1#21 VSS 5.93097e-16
C27 1#14 VSS 1.51351e-16
C28 1 VSS 6.21366e-17
Rg21 1 1#13 428.835663 $W=0.15
Rg22 1#13 1#14 20.521515 $W=0.33
Rg23 1#14 1#15 20.521515 $W=0.33
Rg24 1#15 MX28/M0#g 201.502853 $W=0.15
Rg25 1#13 MX28/M1#g 201.502853 $W=0.15
Rg26 1#15 MX23/M0#g 428.835693 $W=0.15
Rf27 1#16 MX26/M0#d 27.799999 $W=0.17
Rf28 MX31/M0#d 1#19 28.552940 $W=0.17
Rf29 1#14 1#21 164.394119 $W=0.17
Re30 1#16 1#21 154.087524 $W=0.17
Re31 1#21 1#19 153.525024 $W=0.17
Rmw32 MX24/M0#d MX31/M0#d 0.001000 $W=1000000
Rmw33 MX23/M1#g 1 0.001000 $W=1000000
Rmw34 MM1#s MX26/M0#d 0.001000 $W=1000000
*
*|NET 5 1.11237e-15
*|I (MX30/M0#g MX30/M0 g X 0 0.9050 0.8025)
*|I (MX25/M0#d MX25/M0 d X 0 2.1195 0.8025)
*|I (MX24/M0#s MX24/M0 s X 0 1.8405 0.8025)
*|I (MX32/M0#d MX32/M0 d X 0 2.1195 3.2375)
*|I (MM0#g MM0 g X 0 0.9050 3.2375)
*|I (MM1#d MM1 d X 0 1.8405 3.2375)
*|S (5 0.9050 3.2375)
*|S (5#7 0.9050 2.0950)
*|S (5#8 1.1550 2.0950)
*|S (5#11 1.9800 3.0650)
*|S (5#12 1.9800 0.9300)
C29 MX32/M0#d VSS 1.73627e-19
C30 MX25/M0#d VSS 7.0864e-17
C31 MX30/M0#g VSS 4.67108e-17
C32 5#8 VSS 2.93979e-16
C33 5#12 VSS 2.43865e-16
C34 5#11 VSS 3.33966e-16
C35 5#7 VSS 6.99444e-17
C36 5 VSS 5.28643e-17
Rg35 5 5#7 348.282410 $W=0.15
Rg36 5#7 MX30/M0#g 396.482422 $W=0.15
Rf37 5#8 5#7 185.823532 $W=0.17
Rf38 MX32/M0#d 5#11 27.799999 $W=0.17
Rf39 5#12 MX25/M0#d 24.788235 $W=0.17
Re40 5#11 5#8 153.010406 $W=0.17
Re41 5#8 5#12 153.104156 $W=0.17
Rmw42 MX24/M0#s MX25/M0#d 0.001000 $W=1000000
Rmw43 MM0#g 5 0.001000 $W=1000000
Rmw44 MM1#d MX32/M0#d 0.001000 $W=1000000
*
*|NET 8 1.07879e-15
*|I (MX29/M0#d MX29/M0 d X 0 0.3995 0.8025)
*|I (MX24/M0#g MX24/M0 g X 0 1.7650 0.8025)
*|I (MX27/M0#d MX27/M0 d X 0 0.3995 3.2375)
*|I (MX26/M0#g MX26/M0 g X 0 1.3350 3.2375)
*|S (8 1.3350 3.2375)
*|S (8#7 1.5450 1.8400)
*|S (8#8 0.2600 3.5850)
*|S (8#10 0.2600 0.8000)
*|S (8#13 0.2600 1.7550)
C37 MX27/M0#d VSS 6.33285e-17
C38 MX24/M0#g VSS 4.09774e-17
C39 MX29/M0#d VSS 5.84111e-17
C40 8#10 VSS 1.12404e-16
C41 8#13 VSS 3.07184e-16
C42 8#8 VSS 2.77978e-16
C43 8#7 VSS 1.63756e-16
C44 8 VSS 5.47538e-17
Rg45 MX24/M0#g 8#7 333.719604 $W=0.15
Rg46 8#7 8 447.938995 $W=0.15
Rf47 8#8 MX27/M0#d 41.352943 $W=0.17
Rf48 8#10 MX29/M0#d 15.000000 $W=0.17
Rf49 8#7 8#13 260.600708 $W=0.17
Re50 8#8 8#13 153.231674 $W=0.17
Re51 8#13 8#10 152.588287 $W=0.17
Rmw52 MX26/M0#g 8 0.001000 $W=1000000
*
*|NET 16 1.10249e-16
*|I (MX31/M0#s MX31/M0 s X 0 1.2595 0.8025)
*|I (MX30/M0#d MX30/M0 d X 0 0.9805 0.8025)
*|S (16 1.1200 0.8000)
C45 16 VSS 1.10249e-16
Rmw53 MX31/M0#s 16 0.001000 $W=1000000
Rmw54 MX30/M0#d 16 0.001000 $W=1000000
*
*|NET 18 1.37263e-16
*|I (MX26/M0#s MX26/M0 s X 0 1.2595 3.2375)
*|I (MM0#d MM0 d X 0 0.9805 3.2375)
*|S (18 1.1200 3.2350)
C46 18 VSS 1.37263e-16
Rmw55 MX26/M0#s 18 0.001000 $W=1000000
Rmw56 MM0#d 18 0.001000 $W=1000000
*
*Instance Section
*
MX31/M0	MX31/M0#d	MX31/M0#g	MX31/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX30/M0	MX30/M0#d	MX30/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX29/M0	MX29/M0#d	MX29/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX28/M0	MX28/M0#d	MX28/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX28/M1	VSS	MX28/M1#g	MX28/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX25/M0	MX25/M0#d	MX25/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX24/M0	MX24/M0#d	MX24/M0#g	MX24/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX32/M0	MX32/M0#d	MX32/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX27/M0	MX27/M0#d	MX27/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX26/M0	MX26/M0#d	MX26/M0#g	MX26/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX23/M0	MX23/M0#d	MX23/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX23/M1	VDD	MX23/M1#g	MX23/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MM0	MM0#d	MM0#g	VDD	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
MM1	MM1#d	MM1#g	MM1#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
.ENDS
