*
*|DSPF 1.5
*
*|DATE "Tue Jan 16 05:41:03 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "XOR2X4"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  XOR2X4 A B Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 5.45891e-16
*|P (A X 0 0.4720 2.6240)
*|I (MX34/M0#g MX34/M0 g X 0 0.4750 0.8025)
*|I (MX29/M0#g MX29/M0 g X 0 0.4750 3.2375)
*|S (A#7 0.4750 2.6000)
*|S (A#9 0.4600 2.6000)
C1 MX29/M0#g VSS 4.79335e-17
C2 MX34/M0#g VSS 4.71396e-17
C3 A#9 VSS 1.17834e-16
C4 A VSS 3.32984e-16
Rg1 MX29/M0#g A#7 186.009079 $W=0.15
Rg2 A#7 MX34/M0#g 558.755737 $W=0.15
Rf3 A#7 A#9 16.129412 $W=0.17
Re4 A#9 A 152.011536 $W=0.26
*
*|NET B 7.39354e-16
*|P (B X 0 0.9320 1.6640)
*|I (MX35/M0#g MX35/M0 g X 0 1.8850 0.9700)
*|I (MX31/M0#g MX31/M0 g X 0 0.9050 0.8025)
*|I (MX27/M0#g MX27/M0 g X 0 0.9050 3.2375)
*|I (MX26/M0#g MX26/M0 g X 0 1.8850 2.9850)
*|S (B#13 1.8850 1.5550)
*|S (B#14 1.0750 1.4650)
*|S (B#15 0.8750 1.4650)
*|S (B#17 0.9200 1.4650)
C5 MX26/M0#g VSS 7.42108e-17
C6 MX27/M0#g VSS 5.33404e-17
C7 MX31/M0#g VSS 4.25982e-17
C8 MX35/M0#g VSS 6.66994e-17
C9 B#14 VSS 1.59634e-16
C10 B VSS 3.42871e-16
Rg5 MX26/M0#g B#13 457.661713 $W=0.15
Rg6 B#13 B#14 201.603729 $W=0.15
Rg7 B#14 B#15 13.948788 $W=0.33
Rg8 B#15 MX31/M0#g 202.306183 $W=0.15
Rg9 B#13 MX35/M0#g 186.135025 $W=0.15
Rg10 B#15 MX27/M0#g 562.992371 $W=0.15
Rf11 B#14 B#17 19.170588 $W=0.17
Re12 B B#17 152.095673 $W=0.26
*
*|NET Y 1.23108e-15
*|P (Y X 0 5.0720 2.1090)
*|I (MX28/M0#d MX28/M0 d X 0 3.7705 0.9700)
*|I (MX28/M1#s MX28/M1 s X 0 4.0495 0.9700)
*|I (MX28/M2#d MX28/M2 d X 0 4.6305 0.9700)
*|I (MX28/M3#s MX28/M3 s X 0 4.9095 0.9700)
*|I (MX25/M0#d MX25/M0 d X 0 3.7705 2.9850)
*|I (MX25/M1#s MX25/M1 s X 0 4.0495 2.9850)
*|I (MX25/M2#d MX25/M2 d X 0 4.6305 2.9850)
*|I (MX25/M3#s MX25/M3 s X 0 4.9095 2.9850)
*|S (Y#2 3.9100 2.7650)
*|S (Y#3 3.9100 1.0050)
*|S (Y#6 4.7700 2.6100)
*|S (Y#8 4.7700 0.8400)
*|S (Y#10 5.0600 1.8850)
*|S (Y#11 3.9100 1.8850)
C11 MX28/M2#d VSS 1.2952e-16
C12 MX28/M0#d VSS 1.26452e-16
C13 Y#11 VSS 1.44955e-16
C14 Y#3 VSS 1.10176e-16
C15 Y#2 VSS 2.37626e-16
C16 Y#8 VSS 1.22811e-16
C17 Y#6 VSS 2.49058e-16
C18 Y VSS 1.10482e-16
Rf13 MX25/M0#d Y#2 10.991489 $W=0.47
Rf14 Y#3 MX28/M0#d 8.423712 $W=0.485
Rf15 MX25/M2#d Y#6 33.235294 $W=0.17
Rf16 MX28/M2#d Y#8 17.288235 $W=0.17
Re17 Y#6 Y 152.310226 $W=0.26
Re18 Y Y#10 0.103687 $W=0.26
Re19 Y#10 Y#11 0.519755 $W=0.23
Re20 Y#11 Y#3 76.473473 $W=0.23
Re21 Y#10 Y#8 152.567764 $W=0.26
Re22 Y#11 Y#2 76.473473 $W=0.23
Rmw23 MX28/M1#s MX28/M0#d 0.001000 $W=1000000
Rmw24 MX28/M3#s MX28/M2#d 0.001000 $W=1000000
Rmw25 MX25/M1#s MX25/M0#d 0.001000 $W=1000000
Rmw26 MX25/M3#s MX25/M2#d 0.001000 $W=1000000
*
*|NET 1 2.30989e-15
*|I (MX34/M0#d MX34/M0 d X 0 0.3995 0.8025)
*|I (MX30/M0#s MX30/M0 s X 0 2.3905 0.9700)
*|I (MX24/M0#g MX24/M0 g X 0 3.2650 0.9700)
*|I (MX33/M0#g MX33/M0 g X 0 3.2650 2.9850)
*|I (MX29/M0#d MX29/M0 d X 0 0.3995 3.2375)
*|I (MX26/M0#d MX26/M0 d X 0 1.8095 2.9850)
*|S (1 3.2050 2.1450)
*|S (1#8 0.2600 3.6200)
*|S (1#11 0.2600 0.6050)
*|S (1#12 2.5300 1.0950)
*|S (1#15 1.7300 2.1450)
*|S (1#16 0.1250 1.8050)
C19 MX26/M0#d VSS 1.5618e-16
C20 MX29/M0#d VSS 6.47558e-17
C21 MX33/M0#g VSS 6.53063e-17
C22 MX24/M0#g VSS 5.56969e-17
C23 MX30/M0#s VSS 1.20457e-16
C24 MX34/M0#d VSS 2.40919e-17
C25 1#16 VSS 3.16924e-16
C26 1#11 VSS 1.65896e-16
C27 1#8 VSS 2.76793e-16
C28 1#15 VSS 6.01733e-16
C29 1#12 VSS 3.09155e-16
C30 1 VSS 1.52897e-16
Rg27 MX33/M0#g 1 255.802612 $W=0.15
Rg28 1 MX24/M0#g 363.449280 $W=0.15
Rf29 1#8 MX29/M0#d 43.988235 $W=0.17
Rf30 MX34/M0#d 1#11 29.682354 $W=0.17
Rf31 1#12 MX30/M0#s 16.911764 $W=0.17
Rf32 1 1#15 126.058823 $W=0.17
Rf33 1#15 1#16 283.672241 $W=0.17
Rf34 1#15 MX26/M0#d 68.247055 $W=0.17
Re35 1#8 1#16 153.258545 $W=0.17
Re36 1#16 1#11 152.806335 $W=0.17
Re37 1#12 1#15 305.100037 $W=0.17
*
*|NET 4 1.34131e-15
*|I (MX31/M0#d MX31/M0 d X 0 0.9805 0.8025)
*|I (MX30/M0#g MX30/M0 g X 0 2.3150 0.9700)
*|I (MX32/M0#g MX32/M0 g X 0 2.3150 2.9850)
*|I (MX27/M0#d MX27/M0 d X 0 0.9805 3.2375)
*|S (4 2.3750 1.8050)
*|S (4#9 1.1200 3.0900)
*|S (4#11 1.1200 0.6050)
*|S (4#13 1.3050 1.8050)
C31 MX32/M0#g VSS 7.36878e-17
C32 MX30/M0#g VSS 5.64933e-17
C33 MX31/M0#d VSS 5.08043e-17
C34 4#11 VSS 2.55059e-16
C35 4#9 VSS 2.33102e-16
C36 4#13 VSS 4.99992e-16
C37 4 VSS 1.72171e-16
Rg38 MX32/M0#g 4 365.055939 $W=0.15
Rg39 4 MX30/M0#g 254.195938 $W=0.15
Rf40 MX27/M0#d 4#9 25.917646 $W=0.17
Rf41 MX31/M0#d 4#11 29.682354 $W=0.17
Rf42 4 4#13 247.564697 $W=0.17
Re43 4#9 4#13 152.870239 $W=0.17
Re44 4#13 4#11 152.807739 $W=0.17
*
*|NET 11 1.69564e-15
*|I (MX35/M0#d MX35/M0 d X 0 1.9605 0.9700)
*|I (MX30/M0#d MX30/M0 d X 0 2.2395 0.9700)
*|I (MX28/M0#g MX28/M0 g X 0 3.6950 0.9700)
*|I (MX28/M1#g MX28/M1 g X 0 4.1250 0.9700)
*|I (MX28/M2#g MX28/M2 g X 0 4.5550 0.9700)
*|I (MX28/M3#g MX28/M3 g X 0 4.9850 0.9700)
*|I (MX32/M0#s MX32/M0 s X 0 2.2395 2.9850)
*|I (MX26/M0#s MX26/M0 s X 0 1.9605 2.9850)
*|I (MX25/M0#g MX25/M0 g X 0 3.6950 2.9850)
*|I (MX25/M1#g MX25/M1 g X 0 4.1250 2.9850)
*|I (MX25/M2#g MX25/M2 g X 0 4.5550 2.9850)
*|I (MX25/M3#g MX25/M3 g X 0 4.9850 2.9850)
*|S (11 4.9850 2.9850)
*|S (11#25 4.9850 1.6250)
*|S (11#26 4.5550 1.6250)
*|S (11#27 4.3400 1.6250)
*|S (11#28 4.1250 1.6250)
*|S (11#29 3.6950 1.6250)
*|S (11#31 2.1000 2.7650)
*|S (11#32 2.1000 1.4650)
*|S (11#35 3.4500 1.6250)
C38 MX25/M2#g VSS 6.56652e-17
C39 MX25/M1#g VSS 5.7933e-17
C40 MX25/M0#g VSS 6.03932e-17
C41 MX32/M0#s VSS 1.02638e-19
C42 MX28/M3#g VSS 4.97828e-17
C43 MX28/M2#g VSS 5.21055e-17
C44 MX28/M1#g VSS 4.77873e-17
C45 MX28/M0#g VSS 4.86208e-17
C46 MX35/M0#d VSS 1.30057e-16
C47 11#32 VSS 3.48993e-16
C48 11#31 VSS 3.47717e-16
C49 11#35 VSS 2.05651e-16
C50 11#27 VSS 2.17454e-16
C51 11 VSS 6.33784e-17
Rg45 11 11#25 433.036652 $W=0.15
Rg46 11#25 11#26 62.011234 $W=0.27
Rg47 11#26 11#27 36.929379 $W=0.27
Rg48 11#27 11#28 36.929379 $W=0.27
Rg49 11#28 11#29 62.011227 $W=0.27
Rg50 11#29 MX28/M0#g 206.496658 $W=0.15
Rg51 11#25 MX28/M3#g 206.496658 $W=0.15
Rg52 11#26 MX28/M2#g 203.939743 $W=0.15
Rg53 11#26 MX25/M2#g 430.479736 $W=0.15
Rg54 11#28 MX28/M1#g 203.939743 $W=0.15
Rg55 11#28 MX25/M1#g 430.479736 $W=0.15
Rg56 11#29 MX25/M0#g 433.036652 $W=0.15
Rf57 MX32/M0#s 11#31 10.991489 $W=0.47
Rf58 11#32 MX35/M0#d 196.770584 $W=0.17
Rf59 11#27 11#35 72.011765 $W=0.17
Re60 11#35 11#32 152.705429 $W=0.23
Re61 11#32 11#31 76.706520 $W=0.23
Rmw62 MX30/M0#d MX35/M0#d 0.001000 $W=1000000
Rmw63 MX26/M0#s MX32/M0#s 0.001000 $W=1000000
Rmw64 MX25/M3#g 11 0.001000 $W=1000000
*
*|NET 15 6.53471e-16
*|I (MX35/M0#s MX35/M0 s X 0 1.8095 0.9700)
*|I (MX24/M0#d MX24/M0 d X 0 3.1895 0.9700)
*|S (15#2 1.6700 0.7550)
*|S (15 3.0500 0.7550)
C52 15#2 VSS 3.54455e-16
C53 15 VSS 2.99015e-16
Rf65 MX35/M0#s 15#2 23.688236 $W=0.17
Rf66 MX24/M0#d 15 23.688236 $W=0.17
Re67 15 15#2 304.750000 $W=0.23
*
*|NET 18 3.0257e-16
*|I (MX33/M0#d MX33/M0 d X 0 3.1895 2.9850)
*|I (MX32/M0#d MX32/M0 d X 0 2.3905 2.9850)
*|S (18 2.5300 2.9850)
C54 MX33/M0#d VSS 1.50413e-16
C55 18 VSS 1.52157e-16
Rf68 MX33/M0#d 18 90.587570 $W=0.17
Rmw69 MX32/M0#d 18 0.001000 $W=1000000
*
*Instance Section
*
MX35/M0	MX35/M0#d	MX35/M0#g	MX35/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX34/M0	MX34/M0#d	MX34/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX31/M0	MX31/M0#d	MX31/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX30/M0	MX30/M0#d	MX30/M0#g	MX30/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX28/M0	MX28/M0#d	MX28/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX28/M1	VSS	MX28/M1#g	MX28/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX28/M2	MX28/M2#d	MX28/M2#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX28/M3	VSS	MX28/M3#g	MX28/M3#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX24/M0	MX24/M0#d	MX24/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX33/M0	MX33/M0#d	MX33/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX32/M0	MX32/M0#d	MX32/M0#g	MX32/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX29/M0	MX29/M0#d	MX29/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX27/M0	MX27/M0#d	MX27/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX26/M0	MX26/M0#d	MX26/M0#g	MX26/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX25/M0	MX25/M0#d	MX25/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX25/M1	VDD	MX25/M1#g	MX25/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX25/M2	MX25/M2#d	MX25/M2#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX25/M3	VDD	MX25/M3#g	MX25/M3#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
.ENDS
